US08049016B2
Preparation of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid
Following the procedure as describe in Preparation 14, making variations as required to replace ethyl 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate with ethyl 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate, the title compound was obtained as a colourless solid in 82% yield: 1H NMR (300 MHz, DMSO-d6) δ 3.96 (t, J=7.8 Hz, 2H), 3.67 (t, J=7.8 Hz, 2H), 3.06 (d, J=6.9 Hz, 2H), 2.52 (s, 3H), 0.97-0.84 (m, 1H), 0.53-0.37 (m, 2H), 0.20-0.11 (m, 2H); MS (ES+) m/z 282.2 (M+1).

reactant | ethyl 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | FC1(C(C1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O)F | C14H17F2N3O3S
reactant | ethyl 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O | C14H19N3O3S
product | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | 82% yield | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C12H15N3O3S
